US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (0.040 g, 0.11 mmol) and (R)-3-aminobutanoic acid hydrochloride (0.056 g, 0.40 mmol) according to Reference R and general procedure for reductive amination afforded (R)-3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzylamino)butanoic acid hydrochloride. MS (ESI) m/z: calculated: 461.2; Observed: 462.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 0.11 mmol, 0.040 g | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | (R)-3-aminobutanoic acid hydrochloride | 0.40 mmol, 0.056 g | Cl.N[C@@H](CC(=O)O)C
product | (R)-3-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzylamino)butanoic acid hydrochloride | Cl.FC=1C=C(CN[C@@H](CC(=O)O)C)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | InChI=1S/C26H24FN3O2S.ClH/c1-16(13-23(31)32)28-15-17-7-8-19(20(27)14-17)24-29-21-9-10-22(30-25(21)33-24)26(11-12-26)18-5-3-2-4-6-18;/h2-10,14,16,28H,11-13,15H2,1H3,(H,31,32);1H/t16-;/m1./s1
